US04336269
Isopentylamine was reacted with 4-(4-nitrophenyl)butanoyl chloride to provide N-isopentyl-4-(4-nitrophenyl)butyramide, which when reduced by reaction with diborane afforded N-isopentyl-4-(4-nitrophenyl)butylamine. Reaction of the latter compound with acetyl chloride under the conditions of Example 22 gave N-acetyl-N-isopentyl-4-(4-nitrophenyl)butylamine. Reaction of 21.8 g. of N-acetyl-N-isopentyl-4-(4-nitrophenyl)butylamine with 220 ml. of 1 M diborane in tetrahydrofuran provided, after workup according to the method of Example 22, 19.8 g. of N-ethyl-N-isopentyl-4-(4-nitrophenyl)butylamine. Reaction of the amine with para-toluenesulfonic acid in ethyl acetate afforded N-ethyl-N-isopentyl-4-(4-nitrophenyl)butylaminium tosylate. M.P. 78°-80° C.

reactant | Isopentylamine | C(CC(C)C)N | C5H13N
reactant | 4-(4-nitrophenyl)butanoyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)Cl | C10H10ClNO3
product | N-isopentyl-4-(4-nitrophenyl)butyramide | C(CC(C)C)NC(CCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H22N2O3
